US04174397
Analogously to Example 1 (a), reaction of 12.39 g (70.0 mmoles) of 6-nitro-1-indanone in 130 ml of glacial acetic acid, containing 0.5 ml of 48% strength aqueous hydrobromic acid, and 11.2 g (70 mmoles) of bromine in 70 ml of glacial acetic acid, in accordance with the instructions indicated above, gives 2-bromo-6-nitro-1-indanone of melting point 102°-105° C. which, as the pure product after reprecipitation from ethanol/water, has a melting point of 114°-116° C.

reactant | 6-nitro-1-indanone | 70.0 mmoles, 12.39 g | [N+](=O)([O-])C1=CC=C2CCC(C2=C1)=O | C9H7NO3
reactant | hydrobromic acid | Br | BrH
reactant | bromine | 70 mmoles, 11.2 g | BrBr | Br2
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-6-nitro-1-indanone | BrC1C(C2=CC(=CC=C2C1)[N+](=O)[O-])=O | C9H6BrNO3
